US07675228B2
4-Methyl-2-(3-trimethylsilanyl-phenyl)-pyridine
15.0 g (0.0773 mol) of 3-trimethylsilyl-phenylboronic acid, 11.96 g (0.0695 mol) of 2-bromo-4-methyl-pyridine, 30.21 g (0.0927 mol) of cesium carbonate, 0.71 g (0.000776 mol) of tris(dibenzylideneacetone) dipalladium (0), 0.38 g (0.00188 mol) of tri-tert-butyl-phosphane and 100 ml of dioxane were stirred at room temperature for 12 hr. The reaction mixture was filtered and the solvent was removed under 1 mm vacuum. The resulting mixture was purified by distillation in vacuum. Yield of 4-methyl-2-(3-trimethylsilanyl-phenyl)-pyridine was 8.18 g (48.75%) as a colorless liquid with b.p. 89-90° C./0.02. 1H NMR (CD2Cl2) 0.30 (s, 9H, Me3Si), 2.32 (s, 3H, Me) 7.00-8.55 (m, 7H, arom-H). Anal. Found: C, 74.65; H, 7.94; N, 5.88.

reactant | 3-trimethylsilyl-phenylboronic acid | 0.0773 mol, 15.0 g | C[Si](C=1C=C(C=CC1)B(O)O)(C)C | C9H15BO2Si
reactant | 2-bromo-4-methyl-pyridine | 0.0695 mol, 11.96 g | BrC1=NC=CC(=C1)C | C6H6BrN
reactant | cesium carbonate | 0.0927 mol, 30.21 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | tri-tert-butyl-phosphane | 0.00188 mol, 0.38 g | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
catalyst | tris(dibenzylideneacetone) dipalladium (0) | 0.000776 mol, 0.71 g | [Pd].[Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 4-Methyl-2-(3-trimethylsilanyl-phenyl)-pyridine | CC1=CC(=NC=C1)C1=CC(=CC=C1)[Si](C)(C)C | C15H19NSi
